US07148226B2
1-cyclopentyl-pent-4-yn-1-one
To a solution of pent-4-ynethioic acid S-pyridin-2-yl ester (17.9 g, 94 mmol), dissolved in THF (900 mL) cooled to −78° C. was added cyclopentylmagnesium bromide (2.0 M, 94 mL, 188.5 mmol). The reaction was stirred for 15 minutes, and then warmed to −50° C. The reaction was poured into 500 mL 1 N HCl and the layers were separated. The aqueous layer was extracted with 2×200 mL diethyl ether and the organic layers were combined. The organics were then washed with 300 mL of 1 N NaOH. The organic layer was dried over Mg SO4, and the solids were removed by filtration. The solvent was removed by rotary evaporation to give the desired compound (14.0 g, 99% yield).

reactant | pent-4-ynethioic acid S-pyridin-2-yl ester | 94 mmol, 17.9 g | N1=C(C=CC=C1)SC(CCC#C)=O | C10H9NOS
reactant | cyclopentylmagnesium bromide | 188.5 mmol, 2.0 M, 94 mL | C1(CCCC1)[Mg]Br
reactant | HCl | 1 N, 500 mL | Cl | ClH
solvent | THF | 900 mL | C1CCOC1 | C4H8O
product | 1-cyclopentyl-pent-4-yn-1-one | 14.0 g, 99% yield | C1(CCCC1)C(CCC#C)=O | C10H14O
